US07217724B2
Diethyl tetrahydro-2H-pyran-4,4-dicarboxylate (4.04 g, 20 mmol) is suspended in a 30% aqueous sodium hydroxide solution (10 mL), and the mixture is stirred at room temperature for 28 hours. The pH value of the reaction solution is adjusted to pH 1 with conc. hydrochloric acid, and the mixture is separated into water and ethyl acetate. The organic layer is dried over anhydrous sodium sulfate, and the solvent is evaporated. Ethyl acetate (30 mL) is added to the obtained crude product, and the mixture is washed by repulping, and the resulting solid is collected by filtration, and dried to give tetrahydro-4H-pyran-4,4-dicarboxylic acid (3.19 g, 18.3 mmol, 92%).

reactant | Diethyl tetrahydro-2H-pyran-4,4-dicarboxylate | 20 mmol, 4.04 g | O1CCC(CC1)(C(=O)OCC)C(=O)OCC | C11H18O5
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 10 mL | [OH-].[Na+]
product | tetrahydro-4H-pyran-4,4-dicarboxylic acid | 18.3 mmol, 3.19 g, 92% | O1CCC(CC1)(C(=O)O)C(=O)O | C7H10O5
